US08580841B2
Step D: Preparation of 2-Cyclohexyl-5-(hydroxymethyl)benzonitrile.
To a solution of methyl 3-cyano-4-cyclohexylbenzoate (299.0 mg, 1.229 mmol) in 1,4-dioxane (30 mL) was added 2 M lithium borohydride solution in tetrahydrofuran (1.23 mL, 2.46 mmol). The mixture was heated under reflux for 2.5 h. The mixture was cooled to 0° C. and quenched with 1 N aqueous HCl solution slowly to pH 5. After the addition of brine solution, the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, concentrated under reduced pressure and purified by silica gel column chromatography to provide the title compound as a white solid (190.5 mg). LCMS m/z=216.5 [M+H]+; 1H NMR (400 MHz, CDCl3) δ ppm 1.23-1.33 (m, 1H), 1.41-1.52 (m, 4H), 1.76-1.83 (m, 1H), 1.84-1.92 (m, 4H), 2.90-3.05 (m, 1H), 4.70 (d, J=5.81 Hz, 2H), 7.36 (d, J=8.21 Hz, 1H), 7.53 (dd, J=8.27, 1.71 Hz, 1H), 7.61 (d, J=1.39 Hz, 1H).

reactant | methyl 3-cyano-4-cyclohexylbenzoate | 1.229 mmol, 299.0 mg | C(#N)C=1C=C(C(=O)OC)C=CC1C1CCCCC1 | C15H17NO2
reactant | lithium borohydride | 2 M | [BH4-].[Li+]
reactant | tetrahydrofuran | 2.46 mmol, 1.23 mL | O1CCCC1 | C4H8O
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 2-Cyclohexyl-5-(hydroxymethyl)benzonitrile | 190.5 mg | C1(CCCCC1)C1=C(C#N)C=C(C=C1)CO | C14H17NO
